US07705042B2
b) 1-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-nitro-phenyl]-4-methyl-piperidine
To a solution of 1-(5-bromo-2-nitro-phenyl)-4-methyl-piperidine (0.60 g, 2.0 mmol) (as prepared in the previous step) in 5 mL of methanol was added bis(neopentylglycolato) diboron (0.68 g, 3.0 mmol), potassium acetate (0.40 g, 4.0 mmol), and Pd(dppf)Cl2 (0.07 g, 5 mol %) and the reaction heated for 5 h at 60° C. The solution was concentrated and the product eluted from a 20-g SPE cartridge (silica) with 100% DCM to give 0.46 g (70%) of the title compound as a red oil. 1H-NMR (400 MHz, CDCl3): δ 7.71 (d, 1H), 7.59 (d, 1H), 7.40 (dd, 1H), 3.80 (s, 4H), 3.26 (m, 2H), 2.82 (m, 2H), 1.74 (m, 2H), 1.48 (m, 3H), 1.40 (s, 6H), 1.0 (d, 3H).

reactant | 1-(5-bromo-2-nitro-phenyl)-4-methyl-piperidine | 2.0 mmol, 0.60 g | BrC=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C12H15BrN2O2
reactant | bis(neopentylglycolato) diboron | 3.0 mmol, 0.68 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 4.0 mmol, 0.40 g | C(C)(=O)[O-].[K+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd(dppf)Cl2 | 0.07 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-nitro-phenyl]-4-methyl-piperidine | 0.46 g, 70% | CC1(COB(OC1)C=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-])C | C17H25BN2O4
